US04533540
An uncrosslinked vinylpyrrolidone (VP) homopolymer, a crosslinked 98/2 weight ratio vinylpyrrolidone/ethylene glycol dimethacrylate (VP/EGDM) copolymer, an uncrosslinked 70/30 weight ratio vinylpyrrolidone/lauryl methacrylate (VP/LM) copolymer and an uncrosslinked 79/21 weight ratio vinylpyrrolidone/vinyl acetate (VP/VA) copolymer were prepared by solution polymerization in cyclohexane using lauroyl peroxide as catalyst. The viscous reaction mixture was cast on a polytetrafluoroethylene sheet and the solvent was permitted to evaporate. The resultant thin film was dried at 60° C. in a forced air oven, washed free of residual monomer, if any, with petroleum ether and redried in vacuo at 60° C.

reactant | vinylpyrrolidone | C(=C)N1C(CCC1)=O | C6H9NO
reactant | vinylpyrrolidone ethylene glycol dimethacrylate | C(=C)N1C(CCC1)=O.C(C(=C)C)(=O)OCCOC(C(=C)C)=O
reactant | vinylpyrrolidone lauryl methacrylate | C(=C)N1C(CCC1)=O.C(C(=C)C)(=O)OCCCCCCCCCCCC
reactant | polytetrafluoroethylene | FC(C(F)(F)[*:1])(F)[*:2]
solvent | cyclohexane | C1CCCCC1 | C6H12
catalyst | lauroyl peroxide | C(CCCCCCCCCCC)(=O)OOC(CCCCCCCCCCC)=O | C24H46O4
product | vinylpyrrolidone/vinyl acetate | C(=C)N1C(CCC1)=O.C(C)(=O)OC=C | InChI=1S/C6H9NO.C4H6O2/c1-2-7-5-3-4-6(7)8;1-3-6-4(2)5/h2H,1,3-5H2;3H,1H2,2H3
